US03974158
A mixture of 2-(N-acetyl-2-ethoxyanilino)methylmorpholine hydrochloride (10 g.), formic acid (25 ml.) and formaldehyde (25 ml.; 40% solution) is heated at 95°-100°C. for 8 hours, poured onto ice (ca. 500 g.), basified (pH 11) with sodium hydroxide solution (40%) and extracted with ether (2 × 200 ml.; 1 × 100 ml.). The ethereal extracts are combined, dried (Na2SO4), filtered and the filtrate is treated with an excess of etheral oxalic acid solution to give 2-(N-acetyl-2-ethoxyanilino)-4-methylmorpholine hydrogen oxalate, m.p. 186°-187°C. on recrystallisation from ethanol.

reactant | 2-(N-acetyl-2-ethoxyanilino)methylmorpholine hydrochloride | 10 g | Cl.C(C)(=O)N(C1=C(C=CC=C1)OCC)CC1CNCCO1
reactant | formaldehyde | 25 ml | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formic acid | 25 ml | C(=O)O | CH2O2
product | 2-(N-acetyl-2-ethoxyanilino)-4-methylmorpholine hydrogen oxalate | C(C(=O)O)(=O)O.C(C)(=O)N(C1=C(C=CC=C1)OCC)C1CN(CCO1)C | InChI=1S/C15H22N2O3.C2H2O4/c1-4-19-14-8-6-5-7-13(14)17(12(2)18)15-11-16(3)9-10-20-15;3-1(4)2(5)6/h5-8,15H,4,9-11H2,1-3H3;(H,3,4)(H,5,6)
